************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECE555
* Top Cell Name: NAND2
* View Name:     schematic
* Netlisted on:  Dec 14 18:19:46 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ECE555
* Cell Name:    NAND2
* View Name:    schematic
************************************************************************

.SUBCKT NAND2 IN<0> IN<1> OUT VDD VSS
*.PININFO IN<0>:I IN<1>:I OUT:O VDD:B VSS:B
Mnmos OUT IN<1> net1 VSS nmos_rvt w=108.00n l=20n nfin=4
MM1 OUT IN<1> VDD VDD pmos_rvt w=54.0n l=20n nfin=2
Mpmos OUT IN<0> VDD VDD pmos_rvt w=54.0n l=20n nfin=2
MM0 net1 IN<0> VSS VSS nmos_rvt w=108.00n l=20n nfin=4
.ENDS

